US06187905B1
A mixture of 2.1 g (11.41 mmol) of 1-(2-naphthyl)-1-propanone and 2.1 g (30.22 mmol) of hydroxylamine hydrochloride was heated under reflux in 30 ml of pyridine for 1 hour. The solution was evaporated to dryness and the residue was partitioned between water and diethyl ether. The organic layer was washed twice with 2M hydrochloric acid, dried over magnesium sulphate, filtered and evaporated to dryness to give 2.04 g of 1-(2-naphthyl)-1-propanone oxime as a pink solid, 1H NMR (400 MHz, CDCL3) δ: 1.2-1.3 (t,3H), 2.9-3.0 (q,2H), 7.45-7.55 (m,2H), 7.8-7.9 (m,4H), 8.02 (s,1H).

reactant | 1-(2-naphthyl)-1-propanone | 11.41 mmol, 2.1 g | C1=C(C=CC2=CC=CC=C12)C(CC)=O | C13H12O
reactant | hydroxylamine hydrochloride | 30.22 mmol, 2.1 g | Cl.NO
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 1-(2-naphthyl)-1-propanone oxime | 2.04 g | C1=C(C=CC2=CC=CC=C12)C(CC)=NO | C13H13NO
